Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
LEFT LEG CLAUDICATION
 
Major Surgical or Invasive Procedure:
Left lower extremity angiogram and superficial femoral artery 
stent angioplasty

 
History of Present Illness:
___ DM, ESRD s/p DDRT ___, baseline Cr currently 0.9-1.0) and 
PAD with prior LLE SFA stent for claudication (___) now 
presents for pre-admission hydration before a planned LLE 
angiogram for in-stent restenosis causing recurrent and 
progressive claudication symptoms in her left calf with walking.
 
Past Medical History:
PMH: PAD, DM1, ESRD s/p DDRT, pancreatic cysts, chronic 
abdominal
pain, chronic cough/bronchiectasis, hypogammablobulinemia s/p
IVIG, gastroparesis, peripheral neuropathy, diabetic
retinopathy/retinal detachment, recurrent PNA, HLD, HTN, gout,
orthostatic hypotension, bipolar disorder, anxiety/depression,
VitB12 deficiency, LGIB, venous varicosities

PSH: DDRT ___, RNYGB ___, vaginal hysterectomy (not for
malignancy), tonsillectomy, R knee surgery for patellar 
fracture,
cervical LN excisional Bx, temporal artery bx, ureteral
stent/cystoscopy, L SFA drug eluting stent (___)
 Diabetes, insulin dependent, ? type I vs II  
 ESRD s/p Renal transplant in ___, baseline Cr  
 Hypertension  
 Hyperlipidemia  
 S/p gastric bypass  
 H/o GI bleed (lower, ___  
 Chronic cough, bronchiectasis s/p IVIG  
 Diabetic retinopathy  
 Anxiety/depression  
 Bipolar disorder  
 B12 deficiency  
 Gout  
 S/p TAH ___  
 Orthostatic hypotension  
 
Social History:
___
Family History:
No family history of diabetes or kidney disease  
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 1202)
    Temp: 98.0 (Tm 98.3), BP: 161/76 (125-187/55-78), HR: 57
(56-65), RR: 16 (___), O2 sat: 94% (93-96), O2 delivery: Ra
GENERAL: [x]NAD  []A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: []CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  [x]Nontender  []appropriately tender 
[]nondistended  []no rebound/guarding  []abnormal
WOUND: R groin puncture site without ecchymosis or palpable
hematoma
 
Pertinent Results:
___ 05:25AM BLOOD Hct-40.1
___ 05:25AM BLOOD Creat-0.9 K-4.1
___ 03:59AM BLOOD WBC-7.7 RBC-4.83 Hgb-13.4 Hct-43.0 MCV-89 
MCH-27.7 MCHC-31.2* RDW-15.7* RDWSD-50.9* Plt ___
___ 03:59AM BLOOD Glucose-103* UreaN-17 Creat-1.0 Na-143 
K-4.7 Cl-102 HCO3-32 AnGap-9*
___ 03:59AM BLOOD Calcium-9.7 Phos-4.0 Mg-1.9
___ 03:59AM BLOOD ___ PTT-26.4 ___ DM, ESRD s/p DDRT ___, baseline Cr currently 0.9-1.0) and 
PAD with prior LLE
SFA stent for claudication (___) presents for pre-admission 
hydration before a planned LLE angiogram for in-stent restenosis 
causing recurrent and progressive claudication symptoms in her 
left calf with walking.  

The patient was taken to the endovascular suite and underwent 
angioplasty of the left SFA in stent stenosis. The patient 
tolerated the procedure well without complications and was 
brought to the post-anesthesia care unit in stable condition. 
After a brief stay, the patient was transferred to the vascular 
surgery floor where she remained through the rest of the 
hospitalization.  her home medication regimen for her chronic 
medical conditions was maintained throughout her 
hospitalization. 

Post-operatively, she did well without any groin swelling. She 
was able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone.  She was deemed ready for discharge, 
and was given the appropriate discharge and follow-up 
instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Estradiol 10 mcg vaginal TWICE WEEKLY 
2. Creon (lipase-protease-amylase) 24,000-76,000 -120,000 unit 
oral as directed 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Baclofen 10 mg PO TID: PRN Muscle Spasms 
6. Cyanocobalamin 1000 mcg IM/SC QMONTHLY 
7. Gabapentin 300 mg PO TID 
8. LamoTRIgine 200 mg PO DAILY 
9. Levothyroxine Sodium 50 mcg PO DAILY 
10. LORazepam 2 mg PO QHS:PRN Anxiety 
11. LORazepam 1 mg PO BID: PRN anxiety 
12. Mycophenolate Sodium ___ 360 mg PO BID 
13. Sertraline 150 mg PO DAILY 
14. Tacrolimus 1.5 mg PO Q12H 
15. Tretinoin 0.025% Cream 1 Appl TP QHS 
16. Vitamin D ___ UNIT PO DAILY 
17. Clopidogrel 75 mg PO DAILY 
18. Metoprolol Tartrate 50 mg PO BID 
19. TraMADol 50 mg PO TID:PRN Pain - Moderate 
20. Glargine 14 Units Dinner
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Glargine 14 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Baclofen 10 mg PO TID: PRN Muscle Spasms  
5.  Clopidogrel 75 mg PO DAILY 
FOR THE NEXT ___ DAYS ONLY  
6.  Creon (lipase-protease-amylase) 24,000-76,000 -120,000 unit 
oral as directed  
7.  Cyanocobalamin 1000 mcg IM/SC QMONTHLY  
8.  Estradiol 10 mcg vaginal TWICE WEEKLY  
9.  Gabapentin 300 mg PO TID  
10.  LamoTRIgine 200 mg PO DAILY  
11.  Levothyroxine Sodium 50 mcg PO DAILY  
12.  LORazepam 2 mg PO QHS:PRN Anxiety  
13.  LORazepam 1 mg PO BID: PRN anxiety  
14.  Metoprolol Tartrate 50 mg PO BID  
15.  Mycophenolate Sodium ___ 360 mg PO BID  
16.  Sertraline 150 mg PO DAILY  
17.  Tacrolimus 1.5 mg PO Q12H  
18.  TraMADol 50 mg PO TID:PRN Pain - Moderate  
19.  Tretinoin 0.025% Cream 1 Appl TP QHS  
20.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Arterial Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram. We admitted you to the hospital for IV 
hydration secondary to your kidney transplant.  To do the test, 
a small puncture was made in one of your arteries.  The puncture 
site heals on its own: there are no stitches to remove.   You 
tolerated the procedure well and are now ready to be discharged 
from the hospital.   Please follow the recommendations below to 
ensure a speedy and uneventful recovery.

Peripheral Angiography
Puncture Site Care
For one week:
Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
Use only mild soap and water to gently clean the area around 
the puncture site. 
Gently pat the puncture site dry after showering. 
Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 

Activity 
For the first 48 hours: 
Do not drive for 48 hours after the procedure
For the first week:
Do not lift, push , pull or carry anything heavier than 10 
pounds
Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.

After one week:
You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

 
Followup Instructions:
___